US07625925B2
2-Ethyl-4-methoxy-7-(2-methoxy-4,6-dimethylphenyl)-3-nitropyrazolo[1,5-a]pyridine
After adding 4,6-dimethyl-2-methoxyphenylboric acid (191 mg), barium hydroxide octahydrate (334 mg) and tetrakis(triphenylphosphine)palladium(0) complex (123 mg) to a solution of 7-bromo-2-ethyl-4-methoxy-3-nitropyrazolo[1,5-a]pyridine (159 mg) in a mixture of ethyleneglycol diethyl ether (15 mL) and water (7.5 mL), the mixture was heated at 80° C. for 30 minutes. Water was added, extraction was performed with ethyl acetate, the extract was washed with saturated aqueous sodium hydrogencarbonate and brine and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (20 g), and the title compound (185 mg) was obtained from the n-hexane:ethyl acetate (5:1) fraction as yellow crystals.

reactant | 4,6-dimethyl-2-methoxyphenylboric acid | 191 mg | CC1=CC(=C(C(=C1)C)OB(O)O)OC | C9H13BO4
reactant | barium hydroxide octahydrate | 334 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | 7-bromo-2-ethyl-4-methoxy-3-nitropyrazolo[1,5-a]pyridine | 159 mg | BrC1=CC=C(C=2N1N=C(C2[N+](=O)[O-])CC)OC | C10H10BrN3O3
solvent | ethyleneglycol diethyl ether | 15 mL | C(C)OCCOCC | C6H14O2
solvent | water | 7.5 mL | O | H2O
product | 2-Ethyl-4-methoxy-7-(2-methoxy-4,6-dimethylphenyl)-3-nitropyrazolo[1,5-a]pyridine | 185 mg | C(C)C1=NN2C(C(=CC=C2C2=C(C=C(C=C2C)C)OC)OC)=C1[N+](=O)[O-] | C19H21N3O4
